US08076482B2
Preparation of intermediate E/Z-6-chloro-3-(5-chloro-2-methoxycarbonylmethoxy-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
At room temperature, to a solution E/Z-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-acetic acid methyl ester (5.3 g, 14 mmol) in dichloromethane (100 mL) was added di-tert-butyl-dicarbonate (3.7 g, 16.9 mmol), followed by the addition of 4-dimethylaminopyridine (0.17 g, 1.4 mmol). The reaction mixture was stirred at room temperature for 1 h. Then the mixture was concentrated and the residue was purified by chromatography to give the title compound as an yellow solid (5.1 g).

reactant | Z-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-acetic acid methyl ester | 14 mmol, 5.3 g | COC(COC1=C(C=C(C=C1)Cl)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O)=O | C18H13Cl2NO4
reactant | di-tert-butyl-dicarbonate | 16.9 mmol, 3.7 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.4 mmol, 0.17 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-6-chloro-3-(5-chloro-2-methoxycarbonylmethoxy-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 5.1 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OCC(=O)OC)=O | C23H21Cl2NO6
